US05559111
m) 4-Methoxy-3-(3-methoxypropyloxy)-benzyl bromide
97 ml of trimethylbromosilane are added, with stirring at room temperature, to 113.1 g of 4-methoxy-3-(3-methoxypropyloxy)-benzyl alcohol in 1.31 liters of chloroform. After 10 minutes the solvent is evaporated off and the residue is immediately purified by means of FC (900 g of silica gel, eluant: ethyl acetate/hexane 1:3). The title compound is obtained: Rf (ethyl acetate/hexane=1:2)=0.34; m.p. 50°-51 ° C.

reactant | trimethylbromosilane | 97 ml | C[Si](Br)(C)C | C3H9BrSi
reactant | 4-methoxy-3-(3-methoxypropyloxy)-benzyl alcohol | 113.1 g | COC1=C(C=C(CO)C=C1)OCCCOC | C12H18O4
solvent | chloroform | 1.31 liters | C(Cl)(Cl)Cl | CHCl3
product | 4-Methoxy-3-(3-methoxypropyloxy)-benzyl bromide | COC1=C(C=C(CBr)C=C1)OCCCOC | C12H17BrO3
